Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Oxacillin
 
Attending: ___.
 
Chief Complaint:
Found down
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
History of Present Illness (taken from ___ note): ___ y/o 
gentleman with Hep C and heroin abuse was found down on subway 
floor with pill bottles around him. He admitted to suboxone and 
heroin use. Denied EtOH use. He had garbled speech and arousable 
to voice at that time. He was transfered to ___ ED for further 
care.  
 
In the emergency department, initial vitals were T 98.7, BP 
145/70, HR 76, RR 16 100% RA. FSBS 113. He had pinpoint pupils. 
Patient recieved 0.1 mg narcan bolus on ___ at 23:08 with 
0.2 mg/hr thereafter. His RR remained around ___ with 
improvement in mental status. ED team did not want to 
aggressively give narcan given concern that patient may be a 
chronic opioid user. He was transfered to ___ for closer 
monitoring.  

Transfer vitals from the FICU were HR 60 BP 134/91 RR 18 O2 Sat 
99%.  He was treated with a narcan drip.

On the floor, patient was sleepy but easily arousable.  He 
confirmed that he overdosed on benzos and heroin. He denies any 
SI/HI/depression. Endorses congestion and a cough, and runny 
nose and reports that he feels like he is withdrawing, but is 
unable to verbalize what symptoms he has, or what is bothering 
him.  He denies any chest pain, shortness of breath, abdominal 
pain, fever, chills, nightsweats. No arthralgias, myalgias, 
nausea, vomitting, diarrhea, dysuria, blood in stool or urine. 
No other complaints. He reports that he wants everyone to just 
leave him alone so he can sleep.   

 
Past Medical History:
- Right hand crush injury and compartment syndrome s/p open 
reduction internal fixation of the second metacarpal, 
fasciotomy, carpal tunnel release on ___  
- History of tricuspid valve endocarditis and s/p repair in ? 
___  
- Chronic dysphonia  
- Heart burn/indigestion  

 
Social History:
___
Family History:
Non contributory.
 
Physical Exam:
On transfer from FICU to floor:
Vitals: T: 97.9 BP: 151/98 P: 60 R: ___ O2: 98%RA   
General: Sleep.  Easily arousable by voice. Oriented, no acute 
distress, no tremors.  
HEENT: Pupils 3mm reactive to 2mm, Sclera anicteric, MMM, 
oropharynx clear
Lungs: Cough, Clear to auscultation bilaterally, no wheezes, 
rales, ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Pyshc: denies SI or HI
 
Pertinent Results:
CBC
___ 04:48AM BLOOD WBC-5.2 RBC-3.59* Hgb-11.4* Hct-34.1* 
MCV-95 MCH-31.6 MCHC-33.3 RDW-13.3 Plt ___
___ 10:50PM BLOOD WBC-6.2 RBC-3.71* Hgb-11.4*# Hct-34.1* 
MCV-92 MCH-30.7 MCHC-33.4 RDW-14.0 Plt ___

Electrolytes
___ 03:55PM BLOOD Glucose-97 UreaN-10 Creat-0.9 Na-143 
K-4.0 Cl-111* HCO3-27 AnGap-9
___ 04:48AM BLOOD Glucose-92 UreaN-12 Creat-1.0 Na-146* 
K-3.9 Cl-110* HCO3-29 AnGap-11
___ 10:50PM BLOOD Glucose-94 UreaN-14 Creat-1.1 Na-146* 
K-3.8 Cl-108 HCO3-30 AnGap-12

LFTs/CK
___ 03:55PM BLOOD ALT-64* AST-80* CK(CPK)-814*
___ 04:48AM BLOOD ALT-87* AST-126* LD(LDH)-436* 
CK(CPK)-1655* AlkPhos-59 TotBili-0.7

Iron Studies
___ 04:48AM BLOOD calTIBC-243* VitB12-524 Folate-12.3 
Ferritn-254 TRF-187*

Tox Screen
___ 10:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CT Head w/o contrast - no acute hemorrage, enlarged cisterna 
magna
 
Brief Hospital Course:
___ gentleman with h/o heroin abuse and hep C brought into ED 
by EMS with AMS after being found down.  

AMS
On arrival in the ED patient had pinpoint pupils, was arousable 
to voice, but was clearly altered.  He admitted to heroin and 
benzo overdose; denied SI/depression/HI.  He was given 0.1mg 
narcan bolus followed by 0.2mg/hour thereafter in the ED. A non 
contrast head CT showed no evidence of an acute hemorrage.  
Patient was transferred to the FICU overnight for further 
monitoring on a narcan drip.  He remained on the drip until the 
morning and his vitals remained stable throughout the course of 
the day.  He was transferred to the floor on the evening of day 
1 of admission.  He reported that he was "withdrawing" but could 
not describe any of his symptoms.  On the night he was 
transferred to the floor, he had hyperactive bowel sounds and 
was diaphoretic.  He was given supportive care with clonidine, 
atarax, and loperamide.

Patient left AMA on the ___ day of admission in the morning. He 
refused AM labs and would not wait for SW assistance to get into 
a detox program. At that time his mental status had resolved to 
baseline and he remained stable.  He understood the risks and 
benefits of his decision at the time he signed out AMA.

 
Medications on Admission:
?Suboxone?
 
Discharge Medications:
None.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heroin Overdose
 
Discharge Condition:
Patient left AMA. 
 
Discharge Instructions:
None.
 
Followup Instructions:
___